US06294558B1
1-[3-Fluoro-4-(methylsulfonyl)phenyl]-5-[4-(2-furyl)phenyl]-3-hydroxymethyl-1H-pyrazole
To a solution of 1-[3-fluoro-4-(methylsulfonyl)phenyl]-5-[4-(2-furyl)phenyl]-1H-pyrazole-3-carboxylic acid (0.1 g, 0.235 mmol) in THF (2 mL) at 0° C. was added dropwise 1M borane-THF complex (0.7 mL). The mixture was stirred at room temperature for 3 hours. The solution was added water (1 mL) and ethyl acetate (20 mL), and the mixture was washed with 1N HCl, saturated NaHCO3, and brine, dried over MgSO4, filtered, and concentrated in vacuo. The crude mixture was purified by flash chromatography eluting with hexane/ethyl acetate (1/1) to give the title compound (0.051 g, 52.6% yield).

reactant | 1-[3-fluoro-4-(methylsulfonyl)phenyl]-5-[4-(2-furyl)phenyl]-1H-pyrazole-3-carboxylic acid | 0.235 mmol, 0.1 g | FC=1C=C(C=CC1S(=O)(=O)C)N1N=C(C=C1C1=CC=C(C=C1)C=1OC=CC1)C(=O)O | C21H15FN2O5S
reactant | water | 1 mL | O | H2O
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-[3-Fluoro-4-(methylsulfonyl)phenyl]-5-[4-(2-furyl)phenyl]-3-hydroxymethyl-1H-pyrazole | 0.051 g, 52.6% yield | FC=1C=C(C=CC1S(=O)(=O)C)N1N=C(C=C1C1=CC=C(C=C1)C=1OC=CC1)CO | C21H17FN2O4S
